* bfit macromodel for cell 'th22' (stdcell2bfit: per-FET gate-programmed conductances)
* inputs=A,B,Y  output=None  rails=VDD/VSS  (4 NMOS, 4 PMOS)
.subckt th22 A B Y VDD VSS PARAMS: vsup=3.3 ron=1000 gm0=1e-9 rfloat=1e9 cin=2f cint=0.5f
Cin_A A VSS {cin}
Cin_B B VSS {cin}
Cin_Y Y VSS {cin}
BMPA N1 VDD I={ (((vsup-V(A))/vsup)/ron+gm0)*(V(N1)-V(VDD)) }
BMPB X N1 I={ (((vsup-V(B))/vsup)/ron+gm0)*(V(X)-V(N1)) }
BMNA N2 VSS I={ ((V(A)/vsup)/ron+gm0)*(V(N2)-V(VSS)) }
BMNB X N2 I={ ((V(B)/vsup)/ron+gm0)*(V(X)-V(N2)) }
BMPY Y VDD I={ (((vsup-V(X))/vsup)/ron+gm0)*(V(Y)-V(VDD)) }
BMNY Y VSS I={ ((V(X)/vsup)/ron+gm0)*(V(Y)-V(VSS)) }
BMPK X VDD I={ (((vsup-V(Y))/vsup)/ron+gm0)*(V(X)-V(VDD)) }
BMNK X VSS I={ ((V(Y)/vsup)/ron+gm0)*(V(X)-V(VSS)) }
Rf_N1 N1 VSS {rfloat}
Cn_N1 N1 VSS {cint}
Rf_N2 N2 VSS {rfloat}
Cn_N2 N2 VSS {cint}
Rf_X X VSS {rfloat}
Cn_X X VSS {cint}
Rf_Y Y VSS {rfloat}
Cn_Y Y VSS {cint}
.ends
